US07435815B2
[(3-Methyl-pyridine-2-sulfonyl)-p-tolyl-amino]-acetic acid
prepared by reaction of 3-methyl-pyridine-2-sulfonic acid p-tolylamide with methyl bromoacetate

reactant | 3-methyl-pyridine-2-sulfonic acid p-tolylamide | C1(=CC=C(C=C1)NS(=O)(=O)C1=NC=CC=C1C)C | C13H14N2O2S
reactant | methyl bromoacetate | BrCC(=O)OC | C3H5BrO2
product | [(3-Methyl-pyridine-2-sulfonyl)-p-tolyl-amino]-acetic acid | CC=1C(=NC=CC1)S(=O)(=O)N(C1=CC=C(C=C1)C)CC(=O)O | C15H16N2O4S
